US07351733B2
6-Chloro-N-(4-methoxyphenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one and 4-methoxyaniline in a similar manner as described in Example 13 to give 32 mg (21% yield) of a brown solid. 1H-NMR (CDCl3): δ 8.13 (s, 1H), 7.50 (d, 1H), 7.23 (dd, 1H), 7.14 (dd, 1H), 6.92-6.84 (m, 2H), 6.79-6.73 (m, 2H), 4.76 (m, 1H), 3.83 (s, 3H), 2.74 (m, 2H), 2.28 (m, 1H), 2.08 (m, 1H), 1.98-1.75 (m, 2H); MS m/z 325 (M−1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 6-Chloro-N-(4-methoxyphenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=CC=C(C=C1)OC | C19H19ClN2O
